US08809447B2
To a 3-L flask was charged 2,2,4,4-tetramethylcyclobutane-1,3-diol (423.26 g, 3.0 moles), THF (550 g), DMAP (0.5 g) and N-diphenylnitrosoamine (2 g) and methacrylic anhydride (308 g, 2 moles). Mixture heated to reflux (81° C.) and held for six hours. Reaction cooled and THF removed with a rotary evaporated. To the crude residue was added heptane (1200 mL) and cooled to 0-5° C. for 30 minutes. The precipitated unreacted starting material was filtered off and the cake washed with cold heptanes (600 mL). Heptane removed from filtrate with rotary evaporator and the crude product distilled through a 12×1 inch Penn State packed column to produce 3-hydroxy-2,2,4,4-tetramethylcyclobutyl methacrylate in 97.3% NMR assay. To a 500 mL flask was charged 3-hydroxy-2,2,4,4-tetramethylcyclobutyl methacrylate (32 g, 0.151 moles), methylene chloride (75 g), DMAP (0.04 g) and the mixture cooled to 0-5° C. To this was added dropwise over one hour freshly distilled diketene (12.7 g) dissolved in methylene chloride (20 g). After addition, the reaction was allowed to warm to room temperature and stir overnight. Once reaction was complete, the dichloromethane was removed at 60° C. with house vacuum. Crude product distilled via Kugelrohr distillation to provide desired product of 94.8% GC assay.

reactant | 2,2,4,4-tetramethylcyclobutane-1,3-diol | 3.0 moles, 423.26 g | CC1(C(C(C1O)(C)C)O)C | C8H16O2
reactant | methacrylic anhydride | 2 moles, 308 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
catalyst | DMAP | 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 550 g | C1CCOC1 | C4H8O
product | 3-hydroxy-2,2,4,4-tetramethylcyclobutyl methacrylate | C(C(=C)C)(=O)OC1C(C(C1(C)C)O)(C)C | C12H20O3
